US08466186B2
(b) 2-Chloro-4-(methylamino)-5-nitrobenzonitrile
A solution of MeNH2 in THF (14.9 mL, 2 M, 29.8 mmol) was added dropwise to a solution of 2-chloro-4-fluoro-5-nitrobenzonitrile (3.0 g, 15 mmol) in THF (100 mL) at −20° C. The mixture was stirred at −20° C. for 1 h and thereafter concentrated, washed with brine and extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated. The resulting residue was washed with PE to give the sub-title compound.

reactant | MeNH2 | CN | CH5N
reactant | 2-chloro-4-fluoro-5-nitrobenzonitrile | 15 mmol, 3.0 g | ClC1=C(C#N)C=C(C(=C1)F)[N+](=O)[O-] | C7H2ClFN2O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 29.8 mmol, 2 M, 14.9 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-(methylamino)-5-nitrobenzonitrile | ClC1=C(C#N)C=C(C(=C1)NC)[N+](=O)[O-] | C8H6ClN3O2
